US04148895
1-(3-Methoxy phenyl)-2-(1-piperazinyl)-indole 3-carboxylic acid (4-methyl)-piperazide
To a solution of 3.2 g (10 mmols) of 2-chloro-1-(3-methoxyphenyl)-indole 3-carboxylic acid chloride in 20 ml of chloroform, a mixture pf 2.2 ml of N-methyl-piperazine, 2.4 ml of pyridine and 5 ml of chloroform was added while cooling. After standing for 1 hour at room temperature, the mixture was washed twice with water, and the solvent was evaporated in vacuo. The resinous residue, which was uniform according to thin-layer chromatography and consisted of 2-chloro-1-(3-methoxyphenyl)-indole 3-carboxylic acid (4-methyl)-piperazide, was dissolved in 40 ml of diglym, and after addition of 13 g (0.15 mol) of piperazine, the solution was heated to the boil. The cooled solution was diluted with methylene chloride, washed three times with water, and the solvent was eliminated in vacuo. The resinous residue was dissolved in chloroform, and an excess of ethanolic hydrochloric acid was added. The solvent was eliminated in vacuo, the crystallized residue was digested with acetone, suction-filtered and washed with acetone. The yield of faintly grey-colored dihydrochloride of the above compound amounted to 3.7 g (73% of the theoretical yield), m.p. 228°-230° C.

reactant | 2-chloro-1-(3-methoxyphenyl)-indole 3-carboxylic acid chloride | 10 mmols, 3.2 g | ClC=1N(C2=CC=CC=C2C1C(=O)Cl)C1=CC(=CC=C1)OC | C16H11Cl2NO2
reactant | N-methyl-piperazine | 2.2 ml | CN1CCNCC1 | C5H12N2
reactant | pyridine | 2.4 ml | N1=CC=CC=C1 | C5H5N
reactant | piperazine | 0.15 mol, 13 g | N1CCNCC1 | C4H10N2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-Methoxy phenyl)-2-(1-piperazinyl)-indole 3-carboxylic acid (4-methyl)-piperazide | CN1CCN(CC1)C(=O)C1=C(N(C2=CC=CC=C12)C1=CC(=CC=C1)OC)N1CCNCC1 | C25H31N5O2
